US07326791B2
3-bromo-N-[(1S)-1-(5-bromo-1H-benzimidazol-2-yl)ethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-bromo-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-bromo-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 72%; Rf value: 0.50 (silica gel: dichloromethane/ethanol=9:1); C21H18Br2N4O2 (518.207); mass spectrum: (M+H)+=517/519/521 (bromo-chlorine isotope).

reactant | 3-bromo-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C12H10BrNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-bromo-1H-benzimidazol-2-yl)ethylamine | BrC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10BrN3
reactant | bromo-chlorine | BrCl | BrCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-bromo-N-[(1S)-1-(5-bromo-1H-benzimidazol-2-yl)ethyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | Yield: 72% | BrC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Br)C=CC1C(=O)N1CC=CC1 | C21H18Br2N4O2
